US06136823
Synthesis of 2-Bromo-5-fluoro-4-methylaniline
Iron powder (18.5 g) was added to a solution of 5-bromo-2-fluoro-4-nitrotoluene (9.7 g) in acetic acid (30 ml), and the mixture was stirred at 70° C. for 3 hours. The catalyst was removed by filtration through Celite, and the filtrate was washed with chloroform. The solvent and the like in the filtrate were distilled off under reduced pressure. The residue was subjected to column chromatography on silica gel to conduct elution with chloroform, thereby obtaining the title compound (7.9 g) as a red oil.

reactant | 5-bromo-2-fluoro-4-nitrotoluene | 9.7 g | BrC=1C(=CC(=C(C1)C)F)[N+](=O)[O-] | C7H5BrFNO2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | Iron | 18.5 g | [Fe] | Fe
product | 2-Bromo-5-fluoro-4-methylaniline | 7.9 g | BrC1=C(N)C=C(C(=C1)C)F | C7H7BrFN
